Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pelvic mass
 
Major Surgical or Invasive Procedure:
Laparoscopic excision of abdominal and pelvic masses, left 
salpingo-oophorectomy, right salpingectomy, mini-laparotomy 

 
History of Present Illness:
___ ___ who underwent a LSC supracervical hysterectomy
in ___ for a large fibroid uterus.  I do not have pathology or
op notes from this procedure but interestingly she was admitted
to ___ in ___ where imaging demonstrated mesenteric
nodules.  Outpatient laparoscopy was recommended but not 
pursued.
She had an MRI on ___:

Corresponding to the area of abnormalities in the small bowel
mesentery in the left mid abdomen, there are areas of 
precontrast
T1 hyperintensity including a bilobed focus measuring 17 mm in
size corresponding to one of the CT abnormalities seen on image
79 of series 14.  On the same image, there is a 8mm lesion
laterally near the left abdominal wall.  The lesion in the
mesentery is possibly identified on image 81 of series 14.
Following contrast administration, there is very mild 
enhancement
as demonstrate on the subtraction images.  Given the appearance
by CT and the T1 hyperintensity on precontrast imaging, these
lesions are most compatible with endometriomas.  There are no
additional lesions in the pelvis. 

These findings were managed expectantly and she did not have
additional imaging until she presented to her PCP in ___
with complaints of nausea, bloating, LLQ abdominal pain, and
yellow stool.  She also noted a tender mass/bulge to her mid
abdomen and believed this to be a hernia.

She was sent for a pelvic and abdominal US.  This demonstrated 
an
approximately 10.8 x 7.1 x 8.4 cm solid-appearing hypoechoic 
mass
in the left lower quadrant adjacent to the lower pole of the 
left
kidney.
In addition, there were multiple solid fairly circumscribed
lobulated hypoechoic masses with internal vascularity identified 
in the
pelvis. This included an approximately 10.1 x 5.9 x 9.2 cm area
slightly to the right of midline, a 7.9 x 7.8 x 7.6 cm area to
the left of midline, an approximately 5.7 x 4.3 x 5.9 cm area in
the posterior lower pelvis, and an approximately 3.5 x 1.8 x 2.1
cm area posterior to the cervix. There may be another
approximately 3.5 x 2.1 x 3.3 cm circumscribed lobulated
hypoechoic area in the left adnexa.

A pelvic MRI confirmed these findings and suggested "benign
metastasizing leiomyomas".  She was sent for a CT torso which 
did
not demonstrate any chest pathology but again described multiple
mesenteric, retropertitoneal, omental and pelvic masses 
measuring
up to 12 cm.

She presents today for consultation.  She continues to feel
bloated and can feel a bulge and mass in the abdominal wall.  
Her
pain is largely located in the LUQ and flank where she has a
large omental lesion.  She notes constipation, nausea, heartburn
as well.  She denies any vaginal or rectal bleeding.
 
Past Medical History:
Health Maintenance
Last Colonoscopy: n/a
Last Mammogram: ___
Last Bone Density: n/a
Last PCP ___: ___

Past Medical History: non contributory

Past Surgical History: hysterectomy

OB/GYN History: G4P4, menarche at age ___, menopause at age ___.
Patient is presently sexually active and denies use of exogenous
hormones. Last pap smear in ___, denies history of abnormal pap
smears.

 
Social History:
___
Family History:
Denies a family history breast, colon or gynecologic cancer
 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
Vital Signs sheet entries for ___: 
BP: 120/80. Heart Rate: 84. Weight: 200 (Patient Reported).
Height: 64 (Patient Reported). BMI: 34.3.
Well appearing in NAD, presents alone
HEENT:  Her mucous membranes are moist.
LYMPH NODES:  There is no cervical, submandibular or
supraclavicular lymphadenopathy.
CHEST:  Clear to auscultation bilaterally.
CARDIOVASCULAR:  Regular rate and rhythm without any murmurs.
ABDOMEN:  Soft and nondistended, nontender with palpation. There
is an upper abdominal diastasis but no hernia.  There is a
palpable mass in the left mid abdomen/flank.  There is no
inguinal adenopathy.  no CVAT.
EXTREMITIES:  Without limitations, edema or tenderness
bilaterally
Pelvic: there is a large irregular mass at the apex of the cuff
that is somewhat mobile and feels separate from her cervix, 
there
is a second more mobile irregular mass in the right adnexa,
remainder of the exam is limited by her habitus.

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================
On day of discharge:
Afebrile, vitals stable
Gen: No acute distress
CV: RRR
Pulm: CTAB 
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: non-tender, non-edematous
 
Pertinent Results:
___ 03:21PM BLOOD WBC-16.1* RBC-4.12 Hgb-12.5 Hct-38.5 
MCV-93 MCH-30.3 MCHC-32.5 RDW-12.9 RDWSD-44.1 Plt ___
___ 03:21PM BLOOD Plt ___
___ 08:00AM BLOOD HBsAg-NEG
___ 08:00AM BLOOD HIV Ab-NEG
___ 08:00AM BLOOD HCV Ab-NEG
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing LSC excision of abdominal and pelvic masses, 
LSO, RS, mini-laparotomy.
Please see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV 
dilaudid/Toradol. Her diet was advanced without difficulty and 
she was transitioned to PO oxycodone/acetaminophen/ibuprofen.

On post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal and Pelvic Masses 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. ___ have recovered well 
after your operation, and the team feels that ___ are safe to be 
discharged home. Please follow these instructions: 

Laparoscopic instructions:  
* Take your medications as prescribed. We recommend ___ take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
___ start to feel better and need less medication, ___ should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. ___ were 
prescribed Colace. If ___ continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
___ can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks
* No heavy lifting of objects >10 lbs for 6 weeks.  
* ___ may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* ___ may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* ___ should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, ___ may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if ___ are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where ___ are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___